US06683201B2
A solution of 59 mg (0.27 mmol) of [4-(5-Dimethylamino-pent-1-ynyl)-phenyl]-methyl-amine in 0.3 ml dioxane was treated with 0.07 ml (0.55 mmol; 2 equivalents) Hünigsbase and dropwise with a solution of 0.05 ml (0.27 mmol) 4-chlorophenylchloroformate in 0.45 ml dioxane. The mixture was then immediately dissolved in aqueous saturated NaHCO3 IEt2O (3×). The organic phase was dried over Na2SO4 and evaporated. Flash column chromatography on silica gel with CH2Cl2/MeOH (95:5) yielded 55 mg (54%) of [4-(5-Dimethylamino-pent-1-ynyl)-phenyl]-methyl-carbamic acid 4-chloro-phenyl ester, MS: 371 (MH+, 1Cl).

reactant | [4-(5-Dimethylamino-pent-1-ynyl)-phenyl]-methyl-amine | 0.27 mmol, 59 mg | CN(CCCC#CC1=CC=C(C=C1)NC)C | C14H20N2
reactant | 4-chlorophenylchloroformate | 0.27 mmol, 0.05 ml | C1=CC(=CC=C1OC(=O)Cl)Cl | C7H4Cl2O2
solvent | dioxane | 0.3 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.45 ml | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | [4-(5-Dimethylamino-pent-1-ynyl)-phenyl]-methyl-carbamic acid 4-chloro-phenyl ester | 55 mg, 54% | ClC1=CC=C(C=C1)OC(N(C)C1=CC=C(C=C1)C#CCCCN(C)C)=O | C21H23ClN2O2
